US05686481
1-(2-Carboxymethoxy-4-methoxybenzyl)-3-(3,4-methlenedioxyphenyl)-5-(prop-1-yloxy)indole-2-carboxylic acid
Ethyl 1-(2-carboethoxymethoxy-4-methoxybenzyl)-5-hydroxy-3-(3,4-methlenedioxyphenyl)indole-2-carboxylate. The title compound was prepared from ethyl 5-benzyloxy-1-(2-carboethoxymethoxy-4-methoxybenzyl)-3-(3,4-methylenedioxyphenyl)indole-2-carboxylate (460 mg, 0.735 mmol) by the method given in example 6; m.p. 128°-130° C.

reactant | Ethyl 1-(2-carboethoxymethoxy-4-methoxybenzyl)-5-hydroxy-3-(3,4-methlenedioxyphenyl)indole-2-carboxylate | C(=O)(OCC)COC1=C(CN2C(=C(C3=CC(=CC=C23)O)C2=CC3=C(C=C2)OCO3)C(=O)OCC)C=CC(=C1)OC | C30H29NO9
reactant | ethyl 5-benzyloxy-1-(2-carboethoxymethoxy-4-methoxybenzyl)-3-(3,4-methylenedioxyphenyl)indole-2-carboxylate | 0.735 mmol, 460 mg | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=C(C=C(C=C1)OC)OCC(=O)OCC)C(=O)OCC)C1=CC2=C(C=C1)OCO2 | C37H35NO9
product | 1-(2-Carboxymethoxy-4-methoxybenzyl)-3-(3,4-methlenedioxyphenyl)-5-(prop-1-yloxy)indole-2-carboxylic acid | C(=O)(O)COC1=C(CN2C(=C(C3=CC(=CC=C23)OCCC)C2=CC3=C(C=C2)OCO3)C(=O)O)C=CC(=C1)OC | C29H27NO9
